US04002647
9.4 g. of p-toluenesulfonyl chloride are added with ice cooling to a solution of 6.5 g. of 4,6-dimethyl-2-heptanol in 50 ml. of anhydrous pyridine and the mixture is left for 24 hours at 5° C. Thereafter, the mixture is poured onto ice-water and extracted three times with diethyl ether. The extracts are washed successively with cold 2-N aqueous hydrochloric acid solution, water and twice with saturated sodium chloride solution, dried over sodium sulfate/potassium carbonate and evaporated at room temperature, finally at 0.05 mmHg. There is obtained 1,3,5-trimethylhexyl p-toluenesulfonate which exhibits a spot in the thin-layer chromatogram [Rf = 0.43; hexane/ethyl acetate (9:1 parts by volume)].

reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 4,6-dimethyl-2-heptanol | CC(CC(C)O)CC(C)C | C9H20O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1,3,5-trimethylhexyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC(CC(CC(C)C)C)C)C | C16H26O3S
